US07622583B2
4-Chloro-N-[5-chloro-2-((R)-3-methyl-morpholine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide
A mixture of 5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine -2-carboxylic acid (63 mg, 0.152mmol), (R)-3-methyl-morpholine (100 mg, 1.0 mmol), DIEA (0.132 mL, 0.76 mmol) and HATU (86 mg, 0.23 mmol) in 1.5 mL of DMF was stirred at room temperature for 4 hours. The mixture was directly applied for preparative HPLC (20-80% acetonitrile in water) to afford the title compound as a white solid: 1H NMR: (CDCl3, ppm) δ 8.24 (d, 1 H), 8.11 (m, 1 H), 8.02 (m, 1 H), 7.93 (m, 1 H), 7.63 (d, 1 H), 4.60 (m, 1 H), 4.29 (m, 1 H), 3.77 (m, 2H), 3.59 (m, 1 H), 3.38 (m, 2H), 1.28 (m, 3H); MS: (M+H)/z=498.0.

reactant | 5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine -2-carboxylic acid | 0.152mmol, 63 mg | ClC=1C=C(C(=NC1)C(=O)O)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C13H7Cl2F3N2O4S
reactant | (R)-3-methyl-morpholine | 1.0 mmol, 100 mg | C[C@H]1NCCOC1 | C5H11NO
reactant | DIEA | 0.76 mmol, 0.132 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.23 mmol, 86 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-Chloro-N-[5-chloro-2-((R)-3-methyl-morpholine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)N1[C@@H](COCC1)C)C(F)(F)F | C18H16Cl2F3N3O4S
